US03931195
2-(4,5-Methylenedioxy-2-nitrostyryl)pyridine (10.8 g., 0.04 mole) is hydrogenated on a Parr apparatus in 200 ml. of ehtanol with 2.0 g. of 10% palladium on carbon as catalyst. After the reduction is complete, the mixture is filtered and the solvent evaporated. The residue consisting of 2-(4,5-methylenedioxy-2-aminophenethyl)pyridine is immediately dissolved in pyridine (100 ml.) and anisoyl chloride (7.5 g., 0.044 mole) added. The solution is stirred for 30 min. A basic workup according to the procedure of Example 25 affords 10 g. of 4-methoxy-4',5'-methylenedioxy-2'-[2-(2-pyridyl)ethyl]benzanilide obtained analytically pure by crystallization from ethyl acetate.

reactant | 2-(4,5-Methylenedioxy-2-nitrostyryl)pyridine | 0.04 mole, 10.8 g | C1OC2=CC(=C(C=CC3=NC=CC=C3)C=C2O1)[N+](=O)[O-] | C14H10N2O4
reactant | anisoyl chloride | 0.044 mole, 7.5 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methoxy-4',5'-methylenedioxy-2'-[2-(2-pyridyl)ethyl]benzanilide | COC1=CC=C(C(=O)NC2=C(C=C3C(=C2)OCO3)CCC3=NC=CC=C3)C=C1 | C22H20N2O4
